US07141699B1
Magnesium turnings 2.1 g (0.086 mole) were added to 50 ml diethyl ether with stirring. 1-Bromo-4-methyl-3-pentene 10 g (0.061 mole) was added dropwise over 30 minutes. The reaction was allowed to warm from 25° C. to 40° C. during the addition and aged for 30 minutes. A solution of 3-Methoxy-2-cyclopenten-1-one, 10 g (0.089 mole) in diethyl ether was added at 25° C. The resulting mixture was aged 30 minutes then quenched with 20% aqueous acetic acid (50 ml). The organic layer was dried over sodium sulfate, filtered and distilled to give 6.6 g (65% yield) of 3-(4-methyl-3-pentenyl)-2-cyclopenten-1-one. The 3-(4-methyl-3-pentenyl)-2-cyclopenten-1-one had a boiling point (Bp) of 117° C. at 5 mmHg.

reactant | Magnesium | 0.086 mole, 2.1 g | [Mg] | Mg
reactant | 1-Bromo-4-methyl-3-pentene | 0.061 mole, 10 g | BrCCC=C(C)C | C6H11Br
reactant | 3-Methoxy-2-cyclopenten-1-one | COC1=CC(CC1)=O | C6H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-(4-methyl-3-pentenyl)-2-cyclopenten-1-one | 6.6 g, 65% yield | CC(=CCCC1=CC(CC1)=O)C | C11H16O
